US05439917
Preparation of 3-thiocyano-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine hydrochloride
A solution of 100 mg (0.53 mmol) of 3-thiocyano-2-methyl pyrrolo [2,3-b]pyridine and 122 mg (0.79 mmol) of phenacyl chloride in 3 ml acetonitrile: dimethylformamide 2:1 was warmed at 70° C. for 36 h. The reaction mixture was cooled to room temperature and the acetonitrile was evaporated. To the residue was added 10 ml diethyl ether. The precipitated product was filtered off and washed with acetonitrile giving 37 mg (23%) of the title compound.

reactant | 3-thiocyano-2-methyl pyrrolo [2,3-b]pyridine | 0.53 mmol, 100 mg | S(C#N)C1=C(NC2=NC=CC=C21)C | C9H7N3S
reactant | phenacyl chloride | 0.79 mmol, 122 mg | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | acetonitrile dimethylformamide | 3 ml | C(C)#N.CN(C=O)C
product | 3-thiocyano-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine hydrochloride | Cl.S(C#N)C1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C | InChI=1S/C17H13N3OS.ClH/c1-12-16(22-11-18)14-8-5-9-20(17(14)19-12)10-15(21)13-6-3-2-4-7-13;/h2-9H,10H2,1H3;1H
